US09328096B2
2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-methoxy-5-(pyridin-2-yl)benzamide
The title compound was prepared according to the method described for Example 99 using 2-chloro-4-methoxy-5-(pyridin-2-yl)benzoic acid (Preparation 26) and 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (Preparation 53). The residue was purified using reverse phase chromatography eluting with 5-60% MeCN (with 0.1% formic acid) in water (with 0.1% formic acid).

reactant | 2-chloro-4-methoxy-5-(pyridin-2-yl)benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)OC)C1=NC=CC=C1 | C13H10ClNO3
reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
product | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-methoxy-5-(pyridin-2-yl)benzamide | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C(=C1)OC)C1=NC=CC=C1 | C23H16ClN5O2
